US08431695B2
Preparation of 5-(2-Benzyl-5-fluoro-2H-indazol-6-yl)-7-piperidin-4-yl-pyrrolo[2,1-f][1,2,4]-tria-zin-4-ylamine
To a solution of 4-[4-amino-5-(2-benzyl-5-fluoro-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester (370 mg, 0.68 mmol) in DCM (12 mL) was added trifluoroacetic acid (3 mL). The reaction was stirred at rt under N2 for 18 h and poured into EtOAc. The organic phase was washed with saturated, aqueous NaHCO3 solution, water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude was purified via preparative HPLC. The product containing fractions were collected, and the TFA from the eluent was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The filtrate was concentrated and the residue was crystallized from DCM-ether-hexane to provide the title compound (166.4 mg, 55.1%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 8.36 (s, 1H), 7.85 (s, 1H), 7.63 (d, 1H), 7.52 (d, 1H), 7.37 to 7.54 (m, 5H), 6.63 (s, 1H), 5.66 (s, 2H), 3.52 to 3.46 (m, 1H), 3.36 to 3.30 (m, 2H), 3.28 to 3.25 (m, 1H), 3.00 (dt, 2H), 2.25 (d, 2H), 1.92 to 1.80 (m, 2H); ES-MS m/z 442.2 [M+H]+, RT (min) 2.08.

reactant | 4-[4-amino-5-(2-benzyl-5-fluoro-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.68 mmol, 370 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C(=CC1=CN(N=C1C2)CC2=CC=CC=C2)F | C30H32FN7O2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Benzyl-5-fluoro-2H-indazol-6-yl)-7-piperidin-4-yl-pyrrolo[2,1-f][1,2,4]-tria-zin-4-ylamine | 166.4 mg, 55.1% | C(C1=CC=CC=C1)N1N=C2C=C(C(=CC2=C1)F)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H24FN7
